US07468446B2
A suspension of (3,5-dimethoxy-phenyl)-(1,2-dimethyl-1H-benzoimidazol-5-yl)-methanol (2.1 g, 6.7 mmol) and MnO2 (2.9 g, 33.6 mmol) in CH2Cl2 (300 mL) was stirred at room temperature for 17 h. The mixture was filtered through celite and solvent was removed. The crude product was slurried with ether to afford (3,5-dimethoxy-phenyl)-(1,2-dimethyl-1H-benzoimidazol-5-yl)-methanone (2.0 g, 99%) as an off white solid: 1H NMR (DMSO-d6) δ 7.90 (s, 1H), 7.71-7.62 (m, 2H), 6.80 (s, 3H), 3.80 (s, 3H), 3.35 (s, 3H), 2.58 (s, 3H); 13C NMR (DMSO-d6) δ 195.28, 160.17, 154.83, 141.54, 140.27, 139.15, 130.15, 123.50, 120.73, 109.70, 107.19, 103.62, 55.47, 29.96, 13.52.

reactant | (3,5-dimethoxy-phenyl)-(1,2-dimethyl-1H-benzoimidazol-5-yl)-methanol | 6.7 mmol, 2.1 g | COC=1C=C(C=C(C1)OC)C(O)C1=CC2=C(N(C(=N2)C)C)C=C1 | C18H20N2O3
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 33.6 mmol, 2.9 g | O=[Mn]=O
product | (3,5-dimethoxy-phenyl)-(1,2-dimethyl-1H-benzoimidazol-5-yl)-methanone | 2.0 g, 99% | COC=1C=C(C=C(C1)OC)C(=O)C1=CC2=C(N(C(=N2)C)C)C=C1 | C18H18N2O3
